US08664210B2
4β-Ethyl-6α-hydroxyandrostan-3,17-dione
To a stirred solution of 4β-ethylandrostan-3α,6α,17β-triol (Preparation 11, 237 mg) in dioxane (5.8 ml), water (1.08 ml), pyridine (0.1 ml) and NBS (249 mg) were added. After 72 h, EtOAc (70 ml), H2O (30 ml) and 10% Na2SO3 aqueous solution (24 ml) were added and the mixture was stirred for 10 min. The phases were separated and the aqueous phase was extracted with EtOAc. The combined organic extracts were washed with of 5% aqueous NaHCO3, brine, dried over MgSO4, filtered and evaporated to dryness. The crude product was purified by flash chromatography (SiO2, EtOAc/n-hexane 70/30) to give the title compound as a white solid (135 mg, 57%).

reactant | 4β-ethylandrostan-3α,6α,17β-triol | 237 mg | C(C)[C@@H]1C2[C@H](C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC[C@H]1O)C)O)O | C21H36O3
reactant | NBS | 249 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | EtOAc | 70 ml | CCOC(=O)C | C4H8O2
reactant | Na2SO3 | 24 ml | [O-]S(=O)[O-].[Na+].[Na+]
solvent | dioxane | 5.8 ml | O1CCOCC1 | C4H8O2
solvent | water | 1.08 ml | O | H2O
solvent | pyridine | 0.1 ml | N1=CC=CC=C1 | C5H5N
solvent | H2O | 30 ml | O | H2O
product | 4β-Ethyl-6α-hydroxyandrostan-3,17-dione | 135 mg, 57% | C(C)[C@@H]1C2[C@H](C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)=O)O | C21H32O3
